US07407959B2
Step 1: Preparation of 2-(4-Bromophenyl)-1,1,1-trifluorobutan-2-ol
To a solution of 1,4-dibromobenzene (2.5 g, 10.6 mmol) in THF (50 mL) at −78° C. was added n-BuLi (6.5 mL, 10 mmol; 1.6 M in hexanes) and the mixture was stirred at −78° C. for 15 min. 1,1,1-Trifluoro-2-butanone (1.3 g, 10 mmol) was then added. After further stirring for 15 min., the mixture was quenched with aqueous NH4Cl and extracted with Ethyl acetate. Purification by combi-flash chromatography (40 g column; eluted with hexanes—Ethyl acetate (10% -20%) in 20 min.; flow rate: 35 mL/min and collected 18 mL/fraction) to yield the title compound as a colorless liquid.

reactant | 1,4-dibromobenzene | 10.6 mmol, 2.5 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-BuLi | 10 mmol, 1.6 M, 6.5 mL | [Li]CCCC
reactant | 1,1,1-Trifluoro-2-butanone | 10 mmol, 1.3 g | FC(C(CC)=O)(F)F | C4H5F3O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromophenyl)-1,1,1-trifluorobutan-2-ol | BrC1=CC=C(C=C1)C(C(F)(F)F)(CC)O | C10H10BrF3O
